US06730668B2
Preparation of morpholine-4-carboxylic acid 1-[2-(4-fluorophenyl)acetyl]-2-(2-phenoxypyrimidine-4-carbonyl)-pyrazolidin-4-yl ester (42):
Morpholine-4-carboxylic acid 1-[2-(4-fluorophenyl)acetyl]-pyrazolidin-4-yl ester, 41, (354 mg, 1.05 mmol) and 2-phenoxypyrimidine-4-carbonyl chloride, 18, (345 mg, 1.47 mmol) are dissolved in dichloromethane (2 mL). 1.0 N NaOH (3 mL) is added dropwise at room temperature while vigorously stirring. The reaction is allowed to proceed for 12 hours after which time additional acid chloride, 18, is added and stirring continued for 3 hours. Additional acid chloride, 18, (83 mg) is added and stirring continued for an additional 12 hours. After which time the reaction is diluted with dichloromethane (50 mL) and washed with water (50 mL). The combined organic layers are washed with NaHCO3 (sat.) (50 mL) and brine (50 mL), dried, filtered and concentrated to provide a brown oil. The crude material is purified over silica (100% ethyl acetate to 5% methyl alcohol/ethyl acetate) afford 348 mg (61% yield) of the desired product as a viscous oil.

reactant | Morpholine-4-carboxylic acid 1-[2-(4-fluorophenyl)acetyl]-pyrazolidin-4-yl ester | FC1=CC=C(C=C1)CC(=O)N1NCC(C1)OC(=O)N1CCOCC1 | C16H20FN3O4
reactant | 2-phenoxypyrimidine-4-carbonyl chloride | O(C1=CC=CC=C1)C1=NC=CC(=N1)C(=O)Cl | C11H7ClN2O2
reactant | NaOH | 1.0 N, 3 mL | [OH-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | morpholine-4-carboxylic acid 1-[2-(4-fluorophenyl)acetyl]-2-(2-phenoxypyrimidine-4-carbonyl)-pyrazolidin-4-yl ester | 348 mg, 61% yield | FC1=CC=C(C=C1)CC(=O)N1N(CC(C1)OC(=O)N1CCOCC1)C(=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C27H26FN5O6
